L0 (net4 net11) inductor
C3 (VB1 VSS) capacitor
C2 (VB1 VSS) capacitor
C1 (VCONT1 net11) capacitor
C0 (VCONT1 net4) capacitor
M3 (net11 net4 VSS VB1) nmos4
M2 (net4 net11 VSS VB1) nmos4
M1 (net4 net11 VB1 VB1) nmos4
M0 (net11 net4 VB1 VB1) nmos4